### ISSUE TITLE
Tractatus: generalize WorldModel with constraints

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10812]
## Problem

`World := S → Prop` corresponds to the free model (full Boolean cube, no structural constraints). Many interesting philosophical and mathematical cases require constrained worlds — dependencies between states of affairs, physical constraints, modal structure.

### 1. Introduce `WorldModel` structure

```lean
structure WorldModel (S : Type) where
  World : Type
  holds : World → S → Prop
  nonempty : Nonempty World
```

### 2. Show current semantics is the free model

```lean
def freeModel (S : Type) : WorldModel S where
  World := S → Prop
  holds := fun w s => w s
  nonempty := ⟨fun _ => True⟩
```

### 3. Define a constrained example

E.g., a model where rain implies clouds:
```lean
def weatherModel : WorldModel WeatherFacts where
  World := { w : WeatherFacts → Prop // w .rain → w .clouds }
  ...
```

### 4. Prove compositionality holds for any WorldModel

Show truth-functional compositionality is independent of the world structure — it only depends on the recursive evaluation, not on which worlds exist.

### 5. Show independence may fail in constrained models

Demonstrate that `elementary_independence` requires the free model (or the `IndependentWorlds` typeclass from the companion issue).

## Why

Per peer review: "This turns your system into a framework, not a single interpretation." The generalization is what separates a formalization from a philosophical contribution.

Depends on / pairs with the `IndependentWorlds` typeclass issue.

## Acceptance Criteria

- [ ] `WorldModel` structure defined
- [ ] Free model shown as instance
- [ ] At least one constrained model
- [ ] Compositionality proved for general WorldModel
- [ ] Independence shown to fail in constrained model
- [ ] Annotations explaining the modeling spectrum
- [ ] meta.json updated

## References

- TLP 2.06, 2.061 (world as totality of existing states of affairs)
- Peer review section 2.4

**Comment by rjwalters** [comment]
## Curator Enhancement

Curating this issue per user request. Below is complete implementation guidance based on analysis of the current source.

---

## Technical Context and Root Cause

The current file (`proofs/Proofs/TractatusOntology.lean`) hardwires the world model at line 68:

```lean
def World := Sachverhalt → Prop
```

Every downstream definition and theorem uses this alias directly: `Proposition.eval` takes a `World S` which expands to `S → Prop`. The `IsTautology` and `IsContradiction` quantifiers range over `World S`, so they implicitly assume the full Boolean cube of worlds.

The independence theorem (`elementary_independence`, line 260) is trivially true precisely because of this choice — the assignment *is* the world by definition. In a constrained model, where not every assignment is a valid world, this theorem fails.

The quantifiers file (`proofs/Proofs/TractatusQuantifiers.lean`) imports and re-uses the same `World` alias via `open Tractatus`, so any refactor must keep `TractatusQuantifiers.lean` in sync.

---

## Implementation Approach

### Step 1: Introduce `WorldModel` structure (after Section 2, before Section 3)

Insert after line 52 (end of Sachverhalt variable declaration):

```lean
structure WorldModel (S : Type) where
  World    : Type
  holds    : World → S → Prop
  nonempty : Nonempty World
```

Keep the `def World := Sachverhalt → Prop` alias in place, renamed as the free model:

```lean
-- The free model (full Boolean cube) — current semantics unchanged
def freeModel (S : Type) : WorldModel S where
  World    := S → Prop
  holds    := fun w s => w s
  nonempty := ⟨fun _ => True⟩
```

The existing `def World` at line 68 can remain as a module-internal abbreviation for backward compatibility, or be deprecated in favour of `(freeModel S).World`.

### Step 2: Lift `eval` and all definitions to take a `WorldModel`

The cleanest path is a **parallel parameterized section**. Add a `section WorldModel` that takes `(M : WorldModel S)` as a variable and re-states everything in terms of `M.holds`:

```lean
section GeneralSemantics

variable {S : Type} (M : WorldModel S)

def evalM (p : Proposition S) (w : M.World) : Prop :=
  match p with
  | .elementary s => M.holds w s
  | .neg q        => ¬ (evalM q w)
  | .conj q r     => evalM q w ∧ evalM r w

def IsTautologyM (p : Proposition S) : Prop :=
  ∀ w : M.World, evalM M p w

def IsContradictionM (p : Proposition S) : Prop :=
  ∀ w : M.World, ¬ (evalM M p w)

end GeneralSemantics
```

The original `Proposition.eval`, `IsTautology`, and `IsContradiction` stay untouched as specializations of the free model. All existing theorems keep their proofs verbatim.

### Step 3: Add the `weatherModel` constrained example

Suitable location: a new **Section 9b** between the current concrete examples (Section 9, lines 385–431) and the limits section.

```lean
-- Example: weather model with structural constraint
-- rain → clouds is a physical dependency, not a logical one
inductive WeatherFacts where | rain | clouds | snow deriving DecidableEq, Repr

def weatherModel : WorldModel WeatherFacts where
  World    := { w : WeatherFacts → Prop // w .rain → w .clouds }
  holds    := fun w s => w.val s
  nonempty := ⟨⟨fun _ => False, id⟩, trivial⟩
```

### Step 4: Prove compositionality for general `WorldModel`

This goes directly after `evalM` and mirrors the existing proof structure:

```lean
theorem truth_functional_compositionality_gen (M : WorldModel S) (p : Proposition S)
    (w₁ w₂ : M.World)
    (h : ∀ s : S, M.holds w₁ s ↔ M.holds w₂ s) :
    evalM M p w₁ ↔ evalM M p w₂ := by
  induction p with
  | elementary s => exact h s
  | neg q ih     => simp only [evalM]; exact ih.not
  | conj q r ihq ihr => simp only [evalM]; exact ihq.and ihr
```

Proof sketch: identical structure to `truth_functional_compositionality`. The key observation is that `evalM` recurses on the proposition constructor, never on the world type, so the proof is model-independent.

### Step 5: Show independence fails in the `weatherModel`

```lean
-- In the weatherModel, not every assignment is realizable:
-- the assignment {rain ↦ True, clouds ↦ False} is not a valid world.
theorem weather_independence_fails :
    ¬ ∃ w : (weatherModel).World,
        w.val .rain = True ∧ w.val .clouds = False := by
  intro ⟨w, hrain, hclouds⟩
  -- w.property says w.val .rain → w.val .clouds
  -- but hrain gives rain and hclouds gives ¬clouds — contradiction
  exact absurd (w.property (by simp [hrain])) (by simp [hclouds])
```

(Note: the exact proof will depend on whether `holds` is `Prop`-valued or `Bool`-valued. The sketch above uses a `Prop`-valued version.)

---

## Parameterization Strategy: Preserve All Existing Theorems

The issue asks to "preserve all existing theorems." The recommended approach is:

**Option A (Additive, lower risk):** Keep everything in the current file exactly as-is. Add `WorldModel`, `evalM`, and the new theorems in a new section. Show the free model gives back the original semantics via a compatibility lemma:

```lean
theorem evalM_free_eq_eval (p : Proposition S) (w : S → Prop) :
    evalM (freeModel S) p w = p.eval w := by
  induction p <;> simp [evalM, Proposition.eval, freeModel]
```

This is the path of least resistance and zero risk to existing proofs.

**Option B (Refactor, higher coherence):** Replace `def World` with `WorldModel`, make all original theorems work with `freeModel` as the default, keep existing names as aliases. Requires touching `TractatusQuantifiers.lean` too.

Recommendation: **Option A** for this issue; Option B can be a follow-on once `IndependentWorlds` typeclass (#10811) is also in place.

---

## Insertion Points (Line References)

| What | Where |
|---|---|
| `WorldModel` structure | After line 52 (end of `variable (Sachverhalt : Type)`) |
| `freeModel` definition | After `WorldModel`, before existing `def World` (line 68) |
| `evalM`, `IsTautologyM`, `IsContradictionM` | New section after the existing evaluation section (after line 151) |
| `truth_functional_compositionality_gen` | After the new eval definitions |
| `WeatherFacts` inductive + `weatherModel` | After line 431 (end of existing concrete examples) |
| `weather_independence_fails` | After `weatherModel` |
| `meta.json` update | `theoremCount`, `definitionCount`, `openQuestions` entry |

---

## Dependency on #10811

Issue #10811 (`IndependentWorlds` typeclass) and this issue are complementary:

- This issue (#10812) introduces the `WorldModel` abstraction and constrained examples.
- #10811 introduces the `IndependentWorlds` typeclass that `freeModel` satisfies but `weatherModel` does not.
- The theorem `elementary_independence` remains valid exactly when the model satisfies `IndependentWorlds`.

Either can be implemented first; #10812 is slightly more foundational.

---

## Affected Files

- `proofs/Proofs/TractatusOntology.lean` — Primary file: add `WorldModel` structure, `freeModel`, parameterized eval, constrained model, new theorems
- `proofs/Proofs/TractatusQuantifiers.lean` — Review for compatibility; `FOProp` evaluation uses `World S` from the namespace, may need `evalM` variant if first-order theorems are to be generalized
- `src/data/proofs/tractatus-ontology/meta.json` — Update `theoremCount` (add at least 3 new theorems), `definitionCount` (add 3–4 new defs), add entry to `openQuestions` noting the modeling spectrum
- `src/data/proofs/tractatus-ontology/annotations.json` — Add annotations for the new WorldModel section and constrained model example

---

## Test Plan

- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` builds without errors or sorries after adding the new section
- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusQuantifiers` still builds cleanly (no regressions from namespace changes)
- [ ] Manual verification: `pnpm build` succeeds after `meta.json` update (correct `theoremCount` and `definitionCount`)
- [ ] Automated tests: Confirm all 13 existing theorems in `TractatusOntology.lean` still compile (no proofs changed)
- [ ] Edge cases: Verify `evalM_free_eq_eval` compatibility lemma closes the gap between old and new interfaces
- [ ] Edge cases: Verify `weather_independence_fails` actually uses the subtype constraint, not just propositional reasoning
- [ ] Gallery check: `pnpm build` and inspect the tractatus-ontology gallery page to confirm the new section renders correctly
